US05620992
To a stirred solution of 8-amino-7-chloro-1,4-benzodioxan-5-carboxylic acid (prepared from the corresponding 7-H acid (prepared as in GB 1571278) by chlorination of the protected form) (1.10 g) in acetonitrile was added bis-carbonyldiimidazole (0.77 g). The reaction mixture was stirred at room temperature for 1.5 hours. The solvent was removed under reduced pressure to afford crude 8- amino-7-chloro-1,4-benzodioxan-5-imidazolide.

reactant | 8-amino-7-chloro-1,4-benzodioxan-5-carboxylic acid | NC1=C(C=C(C2=C1OCCO2)C(=O)O)Cl | C9H8ClNO4
reactant | acetonitrile | C(C)#N | C2H3N
product | 8- amino-7-chloro-1,4-benzodioxan 5-imidazolide | NC1=C(C=CC2=C1OCCO2)Cl.N1C=NC=[C-]1 | InChI=1S/C8H8ClNO2.C3H3N2/c9-5-1-2-6-8(7(5)10)12-4-3-11-6;1-2-5-3-4-1/h1-2H,3-4,10H2;1,3-4H/q;-1
